US04851526
3-[Heptyl(2-propenyl)amino]cycloheptanecarbonitrile
In a manner similar to Preparation 8, react 3-oxocycloheptanecarbonitrile with N-(2-propenyl)heptanamine and sodium cyanoborohydride to obtain the title compound.

reactant | 3-oxocycloheptanecarbonitrile | O=C1CC(CCCC1)C#N | C8H11NO
reactant | N-(2-propenyl)heptanamine | C(C=C)NCCCCCCC | C10H21N
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | 3-[Heptyl(2-propenyl)amino]cycloheptanecarbonitrile | C(CCCCCC)N(C1CC(CCCC1)C#N)CC=C | C18H32N2
